US06492460B2
Commercially available Fmoc-Cys(Trt) was attached to the linker based solid support # by DIC/DMAP procedure. The solid support (0.50 g) having substitution 0.34 meq/g was placed in reaction vessel and allowed to swell in dichloromethane (DCM) under nitrogen stirring. After 30 min. the resin was filtered and washed with DCM. To this resin a solution of Fmoc-Cys(Trt) (0.56 g, 1.0 mmol) dimethylaminopyridine (DMAP) or N-methyl imidazole (NMI) (0.25 mmol) in DCM:DMF (1:1) 20 ml were added. This mixture was stirred for 8-10 hrs. An aliquot of the resin was washed three times with DCM and dried. An aliquot of this resin was tested to check the loading by the treatment with 20% piperidine and subsequently recording the absorbance indicating approximately 88% loading [Method A]. The resin bearing Fmoc-Cys(Trt) was treated 20% piperidine in DCM:DMF (1:1) 12 ml for 20 min to remove Fmoc group. The resin was washed three times with DCM and then treated with 10% trifluroacetic acid (TFA)/Bu3SiH in DCM for 30 min (three times) to remove the trityl group of Cys. After washing the resin with DCM 3 times, a solution of p-anisaldehyde (0.5 ml) in DCM:DMF (1:1) 10 ml was added under stirring. The stirring was continued for 8-10 hrs. The resin was washed three times with DCM. To this resin, a solution of Benzoyl chloride (0.2 ml, 2 mmol) and DIEA (0.4 ml, 2.0 mmol) in DCM:DMF (1:1) 10 ml were added and the stirring was continued for 3 hrs until the resin was negative to Kaiser test. The resin was washed with DCM:DMF (1:1) 10 ml×3, with DMF 10 ml×3, DCM:DMF (1:1) 10 ml×2 and finally three times with DCM and dried. It was treated with a mixture of dioxan-MeOH-4N. NaOH (30:9:1, 20 ml) for 30 min under stirring and the resin was filtered and washed with 2 ml of water. The combined filtrate was evaporated in vacuo. The residue was taken in water and extracted with ether. The aqueous layer acidified with 1N hydrochloric acid and extracted with EtOAc (3×70 ml). The combined EtOAc layer was washed with water and brine then dried over Na2SO4 and evaporated in vacuo to yield N-Benzoyl-2-(4-methoxyphenyl)thiazolidine-4-carboxylic acid as white crystalline material. Yield: 0.043 g, 72%; m.p. 108-110° C.; FAB-MS [M+H]+ 344; 1H NMR (DMSO-d6) δ: 3.3 (m, 2H), 3.9 (s, 3H), 4.7 (bs, 1H), 5.7 (bs, 1H), 6.6 (m 5H), 6.9-7.2 (Abq, 4H).

reactant | Fmoc-Cys(Trt) | N([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C37H31NO4S
reactant | DIC DMAP | CC(N=C=NC(C)C)C.CN(C)C1=NC=CC=C1
reactant | Fmoc-Cys(Trt) | 1.0 mmol, 0.56 g | N([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C37H31NO4S
reactant | N-methyl imidazole | 0.25 mmol | CN1C=NC=C1 | C4H6N2
reactant | Benzoyl chloride | 2 mmol, 0.2 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | DIEA | 2.0 mmol, 0.4 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DCM DMF | 20 ml | ClCCl.CN(C)C=O
solvent | DCM DMF | 10 ml | ClCCl.CN(C)C=O
product | N-Benzoyl-2-(4-methoxyphenyl)thiazolidine-4-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C(SCC1C(=O)O)C1=CC=C(C=C1)OC | C18H17NO4S
